US08865725B2
A 1.25 M solution of HCl in MeOH (3 mL) was added to a stirred solution of 6-(5-methyl-pyridin-2-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (0.1 g, 0.3 mmol) in MeOH (10 mL) was hydrogenated in a H-cube reactor (1 mL/min, 30 mm Raney nickel cartridge, 30° C., full hydrogen mode, 4 cycles) and then (1 mL/min, 30 mm Raney nickel cartridge, RT, full hydrogen mode, 1 cycle). The solvents were evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 0/100 to 100/0 and then 7 M solution of ammonia in MeOH in DCM with a gradient of 0/100 to 2/98). The desired fractions were collected and the solvents evaporated in vacuo. The product was repurified by RP HPLC (C18 XBridge 19×100 5 um, gradient from 80% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 20% CH3CN to 0% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 100% ACN) to yield 6-(5-methyl-pyridin-2-yl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (5 mg, 5% yield). 1H NMR (500 MHz, CDCl3) δ ppm 2.35 (s, 3H), 3.24 (t, J=6.6 Hz, 2H), 4.35 (t, J=6.6 Hz, 2H), 5.03 (s, 2H), 6.97 (br. t, J=7.4, 7.4 Hz, 1H), 6.99-7.05 (m, 2H), 7.27-7.33 (m, 2H), 7.57 (dd, J=8.5, 2.2 Hz, 1H), 7.59 (s, 1H), 7.71 (d, J=8.4 Hz, 1H), 8.25 (dd, J=1.6, 0.7 Hz, 1H).

reactant | HCl | Cl | ClH
reactant | 6-(5-methyl-pyridin-2-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.3 mmol, 0.1 g | CC=1C=CC(=NC1)N1C(N2C(C=C1)=NC(=C2)COC2=CC=CC=C2)=O | C19H16N4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 6-(5-methyl-pyridin-2-yl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 5 mg, 5% yield | CC=1C=CC(=NC1)N1C(N2C(CC1)=NC(=C2)COC2=CC=CC=C2)=O | C19H18N4O2
